US05036064
(6R,7R)-7-(2-Amino-4-thiazolglyoxylamido)-3 -[[(3-carbamoyl-5-methylpyrazolo[1.5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid was reacted with 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol according to the procedure described in Example 7. After purification of the crude product using the chromatographic procedure described in Example 7 and lyophilization of the product fractions, there was obtained (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(3-carbamoyl-5-methylpyrazolo[1,5-a]pyrimidin-7-yl)thio]-methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a white powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazolglyoxylamido)-3 -[[(3-carbamoyl-5-methylpyrazolo[1.5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=CC2C(N)=O)C)=O | C21H18N8O6S3
reactant | 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol | NOCS(=O)(=O)C=1C=C(C(O)=CC1)O | C7H9NO5S
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(3-carbamoyl-5-methylpyrazolo[1,5-a]pyrimidin-7-yl)thio]-methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=CC2C(N)=O)C)=N/OCS(=O)(=O)C2=CC(=C(C=C2)O)O | C28H25N9O10S4
